US05245068
Synthesis of Dodecyl [[2,6-bis(1-methylethyl)phenoxy]sulfonyl]carbamate
A solution of n-dodecyl(chlorosulfonyl)carbamate (5.0 g, 15.2 mmoles) in 80 mL THF was added dropwise to a solution of 2,6-diisopropyl phenol (2.72 g, 15.2 mmoles) and excess triethylamine in 100 mL THF at room temperature under an atmosphere of N2. The mixture was stirred for 16 hours and then concentrated in vacuo. The residue was partitioned between 1N HCl and EtOAc. The organic layer was dried with MgSO4, filtered, and evaporated to give a clear oil. Chromatography (SiO2, 5% EtOAc/hexanes) gave 4.26 g of the title compound as a waxy solid, mp 32°-35° C.

reactant | n-dodecyl(chlorosulfonyl)carbamate | 15.2 mmoles, 5.0 g | C(CCCCCCCCCCC)OC(NS(=O)(=O)Cl)=O | C13H26ClNO4S
reactant | 2,6-diisopropyl phenol | 15.2 mmoles, 2.72 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)O | C12H18O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Dodecyl [[2,6-bis(1-methylethyl)phenoxy]sulfonyl]carbamate | 4.26 g | CC(C)C1=C(OS(=O)(=O)NC(OCCCCCCCCCCCC)=O)C(=CC=C1)C(C)C | C25H43NO5S
